US07851473B2
(1) N′-[(Ethoxycarbonyl)oxy]benzenecarboximidamide
To a solution of benzamide oxime (25.0 g, 184 mmol) in chloroform (250 ml) was added dropwise a solution of ethyl chlorocarbonate (8.79 ml, 92.0 mmol) in chloroform (60 ml), and the mixture was stirred at room temperature for 3 hours. Insolubles were filtered off, and then the filtrate was concentrated. The residue was recrystallized from a mixed solvent of ethanol and water to yield 18.2 g (94.8%) of the desired product.

reactant | benzamide oxime | 184 mmol, 25.0 g | C(C1=CC=CC=C1)(N)=NO | C7H8N2O
reactant | ethyl chlorocarbonate | 92.0 mmol, 8.79 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | N′-[(Ethoxycarbonyl)oxy]benzenecarboximidamide | 18.2 g, 94.8% | C(C)OC(=O)ON=C(N)C1=CC=CC=C1 | C10H12N2O3
